US04727060
4-Cyano-2(R,S)-α-naphthoxybutyric acid: 0.11 ml of a 50% aqueous KOH solution is added at 0°, while stirring, to a mixture of 5.0 g of α-naphthoxymalonic acid diethyl ester and 1.09 ml of acrylonitrile. The reaction mixture is stirred for 5 days at room temperature and then dissolved in ethyl acetate. The ethyl acetate solution is washed with 2N sodium bicarbonate solution, 2N hydrochloric acid and brine, dried over sodium sulphate and concentrated by evaporation, leaving (2-cyanoethyl)-α-naphthoxymalonic acid diethyl ester.

reactant | 4-Cyano-2(R,S)-α-naphthoxybutyric acid | C(#N)CCC(C(=O)O)OC1=CC=CC2=CC=CC=C12 | C15H13NO3
reactant | KOH | [OH-].[K+]
reactant | α-naphthoxymalonic acid diethyl ester | 5.0 g | C(C)OC(C(C(=O)OCC)OC1=CC=CC2=CC=CC=C12)=O | C17H18O5
reactant | acrylonitrile | 1.09 ml | C(C=C)#N | C3H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2-cyanoethyl)-α-naphthoxymalonic acid diethyl ester | C(C)OC(C(C(=O)OCC)(OC1=CC=CC2=CC=CC=C12)CCC#N)=O | C20H21NO5
